US07994202B2
6-Chloro-3-phenyl-1H-pyrazolo[3,4-b]pyridine
To a solution of 2-chloro-6-fluoropyridine (1.0 g, manufactured by Matrix Chemical LLC) in tetrahydrofuran (40 mL, manufactured by Kanto Chemical Co., Inc.), lithium diisopropylamide (23% solution in tetrahydrofuran/ethylbenzene/heptane, 5.07 mL, manufactured by Sigma-Aldrich Corp.) was added dropwise at −78° C., and the mixture was stirred for 30 minutes. Subsequently, N-methoxy-N-methylbenzamide (1.27 mL, manufactured by Sigma-Aldrich Corp.) was added thereto at the same temperature, and while the temperature was gradually raised to room temperature, the mixture was stirred overnight. A saturated aqueous solution of ammonium chloride (30 mL) was added to the reaction solution, and the mixture was extracted with ethyl acetate (3×30 mL), washed with brine (30 mL), and dried (MgSO4). The solvent was then evaporated, and isopropanol (20 mL, manufactured by Kanto Chemical Co., Inc.) and hydrazine hydrate (1.22 mL, manufactured by Tokyo Chemical Industry Co., Ltd.) were added to the obtained residue. The mixture was heated and stirred for 12 hours at 80° C. The mixture was cooled to room temperature, and then hexane (10 mL) was added to the reaction solution. The solvent was evaporated, to give 180 mg of the title compound. LC-MS: HPLC retention time 1.53 minutes, m/z (M+H) 230, condition C-1.

reactant | 2-chloro-6-fluoropyridine | 1.0 g | ClC1=NC(=CC=C1)F | C5H3ClFN
reactant | N-methoxy-N-methylbenzamide | 1.27 mL | CON(C(C1=CC=CC=C1)=O)C | C9H11NO2
reactant | ammonium chloride | 30 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | lithium diisopropylamide | 5.07 mL | C(C)(C)[N-]C(C)C.[Li+]
product | 6-Chloro-3-phenyl-1H-pyrazolo[3,4-b]pyridine | 180 mg | ClC1=CC=C2C(=N1)NN=C2C2=CC=CC=C2 | C12H8ClN3
